US08629271B2
b) 8-(tert-Butyldimethylsilyloxy)-2,2-dimethyloctan-1-ol
Ethyl 8-(tert-butyldimethylsilyloxy)-2,2-dimethyloctanoate (example 279, step a) (20 g) in dry ether under nitrogen (300 mL) was cooled to 0° C. in an ice bath then diisobutylaluminium hydride (1M in toluene, 133 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 1 hour then quenched with saturated aqueous potassium sodium tartrate (Rochelle's salt, 400 mL) and stirred overnight. The mixture was extracted with ethyl acetate (3×300 mL) then the combined organic layers were washed with brine, dried over magnesium sulfate, filtered and evaporated. Purification was by silica gel chromatography eluting with 0-20% ethyl acetate in cyclohexane to afford the subtitled compound as a colourless liquid. Yield 10.11 g.

reactant | Ethyl 8-(tert-butyldimethylsilyloxy)-2,2-dimethyloctanoate | [Si](C)(C)(C(C)(C)C)OCCCCCCC(C(=O)OCC)(C)C | C18H38O3Si
reactant | diisobutylaluminium hydride | 1M, 133 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | ether | CCOCC | C4H10O
product | 8-(tert-Butyldimethylsilyloxy)-2,2-dimethyloctan-1-ol | [Si](C)(C)(C(C)(C)C)OCCCCCCC(CO)(C)C | C16H36O2Si
